US04153607
15 parts of 2-methylmercapto-4-amino-5-thiocarbamoylthiazole are introduced, at 30° C., into 100 parts of sulfuric acid (of 98 percent strength by weight), containing 0.5 part of bromine. When the evolution of gas has subsided (after 10 minutes), the mixture is stirred for 10 minutes at 45° C. and is then poured on to 300 parts of ice, the batch is filtered and the filter residue is stirred with 100 parts of aqueous 30 percent by weight ammonia solution and filtered off. 12.5 parts of 3-amino-5-methylmercapto-thiazolo-(4,5-c)-isothiazole (84% of theory) of melting point 160°-166° C. are obtained.

reactant | 2-methylmercapto-4-amino-5-thiocarbamoylthiazole | CSC=1SC(=C(N1)N)C(N)=S | C5H7N3S3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | BrBr | Br2
product | 3-amino-5-methylmercapto-thiazolo-(4,5-c)-isothiazole | 84% | NC1=C2C(=NS1)N=C(S2)SC | C5H5N3S3
